Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea/vomiting, abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old G3P0 @ 10w5d by ___ ___ who presents to ED
with multiple episodes of nausea, vomiting and diarrhea which
started around 5:30 this morning. Patient states that she has
been having morning sickness every morning which typically lasts
___ hours, but today her vomiting persisted and was associated
with epigastric pain and diarrhea.

Patient denies any fever, chills, vaginal bleeding, lower
abdominal cramping or leakage of fluid.

In the ED, patient has received multiple anti-emetics and IVF,
but has been experiencing persistent nausea and vomiting despite
these measures. 

 
Past Medical History:
PNC:
1. ___: ___ by ___ ___. PNC @ ___ with ___. Records not
available.
3. Per report + Chlamydia 3 weeks ago s/p treatment

OBHx:
G3P0
SAB x 2 requiring D&C
Current pregnancy

GynHx: Denies history of abnormal Pap tests or Fibroids. +
Chlamydia 3 weeks ago s/p treatment

PMH:
GERD

PSH: D&C x 2

 
Social History:
___
Family History:
NC
 
Physical Exam:
98.8 100 124/64 18 100% 
NAD, appears unwell
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: Soft, mild tenderness to palpation in epigastrum, 
non-distended, no guarding and
no rebound
SSE: (per ED resident) Grayish clear discharge with foul odor, 
no
vaginal bleeding, cervix closed

Per ED resident Bedside US with +IUP with + FHR 

On discharge:
afebrile, vital signs stable
No acute distress, comfortable
Regular rate and rhythm
Clear to auscultation bilaterally
Abdomen generally soft,nontender, non distended, no 
rebound/guarding
No edema, extremities warm
 
Pertinent Results:
___ 09:50PM BLOOD WBC-10.8 RBC-3.61* Hgb-11.4* Hct-31.3* 
MCV-87 MCH-31.6 MCHC-36.4* RDW-14.6 Plt ___
___ 06:30AM BLOOD WBC-13.9* RBC-3.46* Hgb-10.7* Hct-30.3* 
MCV-88 MCH-30.9 MCHC-35.4* RDW-14.4 Plt ___
___ 11:20AM BLOOD WBC-9.9 RBC-4.04* Hgb-12.4 Hct-34.5* 
MCV-86 MCH-30.8 MCHC-36.1* RDW-14.5 Plt ___
___ 09:50PM BLOOD Neuts-83.7* Lymphs-12.2* Monos-2.9 
Eos-1.1 Baso-0.1
___ 11:20AM BLOOD Neuts-81.0* Lymphs-16.0* Monos-2.7 
Eos-0.1 Baso-0.1
___ 09:50PM BLOOD Glucose-137* UreaN-7 Creat-0.6 Na-135 
K-3.5 Cl-106 HCO3-19* AnGap-14
___ 06:30AM BLOOD Glucose-108* UreaN-7 Creat-0.6 Na-135 
K-3.2* Cl-105 HCO3-21* AnGap-12
___ 11:20AM BLOOD Glucose-89 UreaN-7 Creat-0.6 Na-139 K-4.1 
Cl-106 HCO3-23 AnGap-14
___ 09:50PM BLOOD ALT-24 AST-24 CK(CPK)-126 AlkPhos-68 
Amylase-61 TotBili-0.6
___ 11:20AM BLOOD ALT-17 AST-20 AlkPhos-78 TotBili-0.4
___ 09:50PM BLOOD Lipase-31
___ 11:20AM BLOOD Lipase-17
___ 06:30AM BLOOD CK-MB-2 cTropnT-<0.01
___ 09:50PM BLOOD CK-MB-2 cTropnT-<0.01
___ 11:20AM BLOOD TSH-0.083*
___ 11:20AM BLOOD T4-12.0 T3-214* Free T4-1.3
 
Brief Hospital Course:
Ms. ___ is a ___ year old G3P0 who is admitted at 10w4d 
gestational age with severe nausea/vomiting, refractory to 
antiemetics, and severe epigastric pain x2 days.  Of note, she 
does have a history of "severe gastritis" with EGD at age ___.  
She reports some abdominal discomfort over the past month that 
became severe prior to presentation.  On admission, labs 
revealed no leukocytosis, elevated lactate that is normal on 
repeat, normal LFTs and lipse, and low TSH but appropriate for 
early pregnancy.  She was initially treated with antiemetics but 
her abdominal pain becomes more severe.  She was treated with a 
PPI, H2 blocker, and maalox, in addition to morphine prn.  With 
episodes of abdominal pain, the patient is noted to be extremely 
agitated and requires several doses of ativan for panic/anxiety. 
 She was seen by the gastroenterology service and had a normal 
RUQ ultrasound and abdominal/pelvic MRI. H.pylori was negative. 

She continued to have intermittent nausea/emesis but much 
improved with antiemetics.  On hospital day 2, a stat 
psychiatric consultation was called as the patient was again 
very agitated, and they recommended ativan TID prn for 
agitation, likely due to anxiety/panic.  With episodes of 
agitation, she complained of chest pain/sense of doom; EKG x2 
and troponins were normal and she had no vital sign 
abnormalities.  The patient was seen by ___ of social 
work and revealed that she has little social support, and that 
this is an unwanted pregnancy, however stated that she did not 
believe in abortion.  Her primary ob/gyn office, affiliated with 
___, was contacted and follow-up (both ob/gyn and social work) 
was arranged for the patient.  The GI service continued to 
follow the patient and recommended an outpatient EGD. On 
hospital day 4, Ms. ___ denied abdominal pain and was 
tolerating a regular diet. She was discharged home with close 
outpatient follow up. 
 
Medications on Admission:
none
 
Discharge Medications:
1. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO qam.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
2. famotidine 20 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*2*
3. ZOFRAN ODT 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO q6 hours prn as needed for heartburn.
Disp:*60 Tablet, Rapid Dissolve(s)* Refills:*2*
4. Ativan 1 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for anxiety/distress.
Disp:*12 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gastritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted with nausea/vomiting and severe abdominal 
pain.  As an inpatient, you were treated with anti-nausea 
medicine, antacids, and pain medicine.  Ultrasounds and MRI were 
normal and your pain improved.
The GI specialists will call you to schedule a procedure called 
esophagogastroduodenoscopy (EGD).  It is important that you have 
this procedure done to evaluate the cause of your abdominal 
pain. 
 * It is important that you have your records from ___ transferred to ___. Please call 
your OB doctor have them fax your records to us at ___

  

 
Followup Instructions:
___